US06569851B1
Synthesis of 4-Amino-2-aza-2-benzyl-3-oxo-bicyclo[3,2,1]octane Hydrochloride
A solution of 2-aza-2-benzyl-4-oximino-3-oxo-bicyclo[3,2,1]octane in 10 mL/mmole of ethanol and 5.8 mL/mmole of 3N HCl containing 0.5 g/mmole of 10% Pd/C was saturated with hydrogen gas to 45 psi. The mixture was shaken for 3 hours and then filtered through a layer of Celite. The filtrate was dried over sodium sulfate and concentrated under reduced pressure to afford the title compound as a solid (86% yield). This procedure is further described in E. Reimann, Arch. Pharm. 310, 102-109 (1977).

reactant | 2-aza-2-benzyl-4-oximino-3-oxo-bicyclo[3,2,1]octane | C(C1=NC=CC=C1)C1C2CCC(C(C1=O)=NO)C2 | C14H16N2O2
reactant | HCl | 3N | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-Amino-2-aza-2-benzyl-3-oxo-bicyclo[3,2,1]octane Hydrochloride | 86% yield | Cl.NC1C(C(C2CCC1C2)CC2=NC=CC=C2)=O | InChI=1S/C14H18N2O.ClH/c15-13-10-5-4-9(7-10)12(14(13)17)8-11-3-1-2-6-16-11;/h1-3,6,9-10,12-13H,4-5,7-8,15H2;1H
